US06407293B1
Under a nitrogen atmosphere, into a reaction flask (volume: 200 ml) were added 1-chloro-3-1-menthoxypropan-2-ol (50 g, chemical purity: 97.8%, 0.1968 mol) obtained in Example 1, toluene (75 ml), a 50% aqueous sodium hydroxide solution (31.49 g, 0.3936 mol) and a 50% aqueous benzyltrimethylammonium chloride solution (1.46 g, 4.26 mmol), and they were reacted at 75° C. for 2 hours. After completion of the reaction, the organic layer was washed with water and then the solvent (toluene) was removed to obtain an oily substance. The oily substance was distilled under reduced pressure to obtain 1,2-epoxy-3-1-menthoxypropane (34.6 g, chemical purity: 98.25%) [boiling point: 75-80° C./10.7 Pa (0.08 mmHg)] as a colorless transparent oily substance (yield: 97.0% based on 1-chloro-3-1-menthoxypropan-2-ol).

reactant | 1-chloro-3-1-menthoxypropan-2-ol | 0.1968 mol, 50 g | ClCC(COC1(CCC(CC1)C(C)C)C)O | C13H25ClO2
reactant | sodium hydroxide | 0.3936 mol, 31.49 g | [OH-].[Na+]
catalyst | benzyltrimethylammonium chloride | 4.26 mmol, 1.46 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-epoxy-3-1-menthoxypropane | 34.6 g, yield: 97.0% | O1CC1COC1(CCC(CC1)C(C)C)C | C13H24O2
